US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]-triazin-4-amine
To a stirred solution of 5-bromo-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine (150 mg, 0.46 mmol) and tetrakis(triphenylphosphine)palladium(0) (159 mg, 0.14 mmol), in degassed DMF (3.0 mL) was added 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole (184 mg, 0.55 mmol), K2CO3 (153 mg, 1.10 mmol), and H2O (0.5 mL). The mixture was degassed and heated (100° C.) for 17 h and then cooled to rt. The mixture was partitioned between ethyl acetate (25 mL) and saturated aqueous Na2CO3 solution (25 mL). The layers were separated and the organic phase was washed, dried (Na2SO4), and concentrated to dryness. The residue was purified by preparative HPLC using a gradient elution from 10% to 70% acetonitrile to obtain 15 mg (7%) of the desired product. 1H-NMR (DMSO-d6) 8.56 (s, 1H), 7.85 (s, 1H), 7.80 (d, 1H), 7.54 (s, 1H), 7.32-7.38 (m, 5H), 7.02 (d, 1H), 5.65 (s, 2H), 3.81 (s, 2H), 2.53-2.50 (m, 4H), 2.43-2.40 (m, 4H), 2.10 (s, 3H); LC-MS [M+H]+=454, RT=2.30 min.

reactant | 5-bromo-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.46 mmol, 150 mg | BrC=1C(=C(N2N=CN=C(C21)N)CN2CCOCC2)C | C12H16BrN5O
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2H-indazole | 0.55 mmol, 184 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | K2CO3 | 1.10 mmol, 153 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | H2O | 0.5 mL | O | H2O
solvent | DMF | 3.0 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.14 mmol, 159 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-benzyl-2H-indazol-6-yl)-6-methyl-7-(morpholin-4-ylmethyl)pyrrolo[2,1-f][1,2,4]-triazin-4-amine | 15 mg, 7% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C(=C(N2N=CN=C(C21)N)CN2CCOCC2)C | C26H27N7O
